US07615568B2
A. 3,4-Dimethoxybenzyl Bromide
To a solution of 3,4-dimethoxybenzyl alcohol (10 g, 59.5 mmol), carbon tetrabromide (22 g, 65.4 mmol), and THF (250 mL) was added triphenylphosphine (17 g, 65.4 mmol) in THF (75 mL). The reaction was heated at 60° C. for 1 h and concentrated to an oil. To the residue was added 1:1 CH2Cl2:Et2O and the resulting solid was filtered. The filtrate was concentrated and chromatographed on florisil with CH2Cl2 to give the title compound (8.05 g, 59%).

reactant | 3,4-dimethoxybenzyl alcohol | 59.5 mmol, 10 g | COC=1C=C(CO)C=CC1OC | C9H12O3
reactant | carbon tetrabromide | 65.4 mmol, 22 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 65.4 mmol, 17 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 3,4-Dimethoxybenzyl Bromide | 8.05 g, 59% | COC=1C=C(CBr)C=CC1OC | C9H11BrO2
